US08754073B2
52.1 tert-butyl 4-(acetylaminomethyl)-4-phenylpiperidine-1-carboxylate
8 g tert-butyl 4-aminomethyl-4-phenylpiperidine-1-carboxylate and 2.9 ml acetic anhydride are stirred in 80 ml of ethanol overnight at ambient temperature and then evaporated to dryness. 10.4 g product are obtained.

reactant | tert-butyl 4-aminomethyl-4-phenylpiperidine-1-carboxylate | 8 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H26N2O2
reactant | acetic anhydride | 2.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | tert-butyl 4-(acetylaminomethyl)-4-phenylpiperidine-1-carboxylate | 10.4 g | C(C)(=O)NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C19H28N2O3
